US05026865
2,5-Bis(2-hydroxypropylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole(276.21 grams, 1.84 moles) and isopropanol (400 ml) were charged into a reaction flask. Propylene oxide(222.8 grams, 3.84 moles) was added at a rate sufficient to maintain reflux condition. The mixture was refluxed for 15 minutes. The solvent was stripped off by using a rotary evaporator at approximately 20 mm Hg and 100° C. The product is characterized by infrared absorption bands at 3350, 2900, 1680, 1450, 1380, 1250, 1120, 1040, 930, 740, and 705 cm-1.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 1.84 moles, 276.21 grams | SC=1SC(=NN1)S | C2H2N2S3
reactant | Propylene oxide | 3.84 moles, 222.8 grams | C1C(C)O1 | C3H6O
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | 2,5-Bis(2-hydroxypropylthio)-1,3,4-thiadiazole | OC(CSC=1SC(=NN1)SCC(C)O)C | C8H14N2O2S3
